US07812040B2
3,5-dimethyl-4-(pyrrolidin-1-ylmethyl)phenol.
To a stirring solution of 2,6-dimethyl-4-hydroxybenzaldehyde (8.2 g, 52.1 mmol) in methylene chloride (80 mL) at 0 C (ice/water bath) was added pyrrolidine (6.5 mL, 78.1 mmol) followed by Na(Oac)3BH and then the reaction was warmed to rt. After 2 hr the reaction was quenched with 1 N NaOH and extracted with methylene chloride. The combined organic layers were dried over MgSO4, filtered and concentrated. This material was triterated with diethyl ether and filtered. The filtrate was concentrated and chromatographed by flash column chromatography using a 330 g ISCO column, eluting with a gradient of 10%, 20%, 30%, 50% MeOH/CHCl3. The product containing fractions were collected and concentrated to give the title compound (3.5 g, 33% yield) as a yellow solid. LCMS-data: 392.2, and 206.3 (M+H)+ (calculated for C13H19NO 205.3). 1H NMR data (CDCl3): 7.52 (bs, 1H), 6.17 (s, 2H), 3.57 (s, 2H), 2.67-2.61 (m, 4H), 2.25 (s, 6H), 1.82-1.72 (m, 4H); C13 NMR δ 155.2, 139.0, 127.4, 116.2, 54.8, 53.0, 23.4, 20.5.

reactant | 2,6-dimethyl-4-hydroxybenzaldehyde | 52.1 mmol, 8.2 g | CC1=C(C=O)C(=CC(=C1)O)C | C9H10O2
reactant | pyrrolidine | 78.1 mmol, 6.5 mL | N1CCCC1 | C4H9N
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 3,5-dimethyl-4-(pyrrolidin-1-ylmethyl)phenol | 3.5 g, 33% yield | CC=1C=C(C=C(C1CN1CCCC1)C)O | C13H19NO
